US08623889B2
N-(7-(3-(hydroxymethyl)phenyl)isoquinolin-3-yl)cyclopropanecarboxamide
A mixture of N-(7-bromoisoquinolin-3-yl)cyclopropanecarboxamide (100 mg, 0.35 mmol), 3-(hydroxyl-methyl)phenylboronic acid (0.53 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (26 mg, 0.035 mmol) and cesium carbonate (228 mg, 0.70 mmol) in 1,2-dimethoxyethane/water (10:1, 2.0 mL) was stirred under microwave irradiation at 130° C. for 20 minutes under nitrogen. Ethyl acetate (10 mL) was added to the reaction mixture and it was filtered. The residue was extracted with ethyl acetate (5.0 mL×3). The organic layer was combined, dried with sodium sulfate, filtered and concentrated. It was purified by column chromatography to give the product (10 mg, 13%). LCMS (ESI): RT (min)=1.062, M+H+=318.2, method=A. 1H NMR (400 MHz, CDCl3) δ 10.91 (s, 1H), 9.18 (s, 1H), 8.44 (s, 1H), 8.30 (s, 1H), 8.01 (dd, J=1.6, 8.8 Hz, 1H), 7.92 (d, J=8.8 Hz, 1H), 7.73 (s, 1H), 7.66 (d, J=8.0 Hz, 1H), 7.46 (t, J=6.8 Hz, 1H), 7.34 (d, J=7.2 Hz, 1H), 5.29 (t, J=5.6 Hz, 1H), 4.58 (d, J=6.0 Hz, 2H), 2.07-2.04 (m, 1H), 0.83-0.79 (m, 4H).

reactant | N-(7-bromoisoquinolin-3-yl)cyclopropanecarboxamide | 0.35 mmol, 100 mg | BrC1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1 | C13H11BrN2O
reactant | 3-(hydroxyl-methyl)phenylboronic acid | 0.53 mmol | OCC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | cesium carbonate | 0.70 mmol, 228 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | 1,2-dimethoxyethane water | 2.0 mL | COCCOC.O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.035 mmol, 26 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-(7-(3-(hydroxymethyl)phenyl)isoquinolin-3-yl)cyclopropanecarboxamide | 10 mg, 13% | OCC=1C=C(C=CC1)C1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1 | C20H18N2O2
